US03931407
b. 1-(3-Carboxy-4-hydroxyphenyl)-1,8-dihydro-2-phenylindeno[2,1-b]pyrrole ##SPC104##
A mixture of 4.0 g. (0.016 mole) of 1-phenacyl-2-indanone, 2.45 g. (0.016 mole) of 5-aminosalicylic acid and 10 ml. of glacial acetic acid was heated under reflux under nitrogen for 2 hours, cooled and filtered. The collected solid was washed with petroleum ether and recrystallized from acetic acid to provide 4.6 g. (78%) of yellow crystals, m.p. 201°-205°.

reactant | 1-phenacyl-2-indanone | 0.016 mole | C(C(=O)C1=CC=CC=C1)C1C(CC2=CC=CC=C12)=O | C17H14O2
reactant | 5-aminosalicylic acid | 0.016 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxy-4-hydroxyphenyl)-1,8-dihydro-2-phenylindeno[2,1-b]pyrrole | C(=O)(O)C=1C=C(C=CC1O)N1C2=C(C=C1C1=CC=CC=C1)C=1C=CC=CC1C2 | C24H17NO3
